US07795265B2
Step A: N-(2,3-Dihydro-1,4-benzodioxin-6-yl)-4-fluorobenzenecarboxamidine.
To a solution of 2.39 g (15.8 mmol) of 1,4-benzodioxan-6-amine in 30 mL of tetrahydrofuran at ambient temperature was added 8.7 mL (17.4 mmol) of 2.0 M (in tetrahydrofuran) sodium bis(trimethylsilyl)amide and the resulting solution was stirred for 20 min. To this reaction mixture was added 1.91 g (15.8 mmol) of 4-fluorobenzonitrile all at once. The resulting mixture was stirred at ambient temperature overnight and then poured into brine (50 mL) and dichloromethane (150 mL). The organic layer was separated and the aqueous layer was extracted with dichloromethane (50 mL). The combined organic layers were dried over sodium sulfate; filtered and concentrated in vacuo to yield the title compound as yellow solid which was used without further purification. LC/MS 273.2 (M+1). Step B: Ethyl 1-(2,3-dihydro-1,4-benzodioxin-6-yl)-2-(4-fluorophenyl)-1H-imidazole-4-carboxylate. To a mixture of the compound from Step A and 4.0 g (48 mmol) of sodium bicarbonate in 50 mL of 1,4-dioxane was added 3.0 mL (24 mmol) of ethyl bromopyruvate. The reaction mixture was refluxed overnight. After cooling to room temperature, the solid was filtered off and the filtrate was concentrated in vacuo. Flash chromatography on a Biotage Horizon® system (silica gel, 0 to 50% ethyl acetate in hexanes gradient) gave the title compound as yellow solid. LC/MS 369.1 (M+1). Step C: 1-(2,3-Dihydro-1,4-benzodioxin-6-yl)-2-(4-fluorophenyl)-1H-imidazole-4-carboxylic acid. To a solution of 2.1 g (5.7 mmol) of ethyl 1-(2,3-dihydro-1,4-benzodioxin-6-yl)-2-(4-fluorophenyl)-1H-imidazole-4-carboxylate in 20 mL of tetrahydrofuran, 1 0 mL of water and 1 0 mL of methanol was added 2.0 mL (10 mmol) of 5.0 M NaOH solution. The reaction mixture was stirred at ambient temperature overnight. Hydrochloric acid (2.0 M) was then added to neutralize the reaction mixture. After removal of the organic solvents in vacuo, dichloromethane (20 mL) was added and the organic layer was separated. The aqueous layer was extracted with dichloromethane (10 mL), and the combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo to yield the title compound as a pale yellow foam. LC/MS 341.0 (M+1).

reactant | 1,4-benzodioxan-6-amine | 15.8 mmol, 2.39 g | O1CCOC2=C1C=CC(=C2)N | C8H9NO2
reactant | sodium bis(trimethylsilyl)amide | 2.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 4-fluorobenzonitrile | 15.8 mmol, 1.91 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | brine | 50 mL | [Cl-].[Na+].O
product | N-(2,3-Dihydro-1,4-benzodioxin-6-yl)-4-fluorobenzenecarboxamidine | O1CCOC2=C1C=CC(=C2)NC(=N)C2=CC=C(C=C2)F | C15H13FN2O2
